US06429205B1
A solution of 6-bromo-2,3-dihydro-1H-quinolin-3-one (0.05 g, 0.219 mmol) in THF (20 mL) and aqueous sodium carbonate (5 mL) was treated with aluminum trichloride (0.116 g, 0.9 mmol) and lithium aluminum hydride (33 mg, 0.9 mmol) The reaction was refluxed for 18 h. and cooled down. The filtrate evaporated to dryness, taken up in water and extracted with EtOAc (3×). Ethyl acetate extracts were dried over sodium sulfate and concentrated. The crude residue was purified by flash chromatography (hexane/EtOAc, 1:3) to afford 6-bromo-2,3-dihydro-1H-quinoline (0.040 g, 87%). LRMS (ES+): 211.3 (M+H)+.

reactant | 6-bromo-2,3-dihydro-1H-quinolin-3-one | 0.219 mmol, 0.05 g | BrC=1C=C2CC(CNC2=CC1)=O | C9H8BrNO
reactant | aluminum trichloride | 0.9 mmol, 0.116 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | lithium aluminum hydride | 0.9 mmol, 33 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | sodium carbonate | 5 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 6-bromo-2,3-dihydro-1H-quinoline | 0.040 g, 87% | BrC=1C=C2CCCNC2=CC1 | C9H10BrN
